data/specific_train_final.csv
"[H:20][CH:21]([O:22])OC(C)(C)C.[OH:10]>>[H:20][OH:10].CC(C)(C)O[CH:21]=[O:22] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][O:21]C1=C(C=CC=C1)C.[OH:10]>>[H:20][OH:10].CC1=C(C=CC=C1)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C12C=CC(C(C1O)OO2)OO[O:20][N+:21](=O)[O-]>>CC(C)C12C=CC(C(C1O)OO2)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO)(C(COO)O)[O:21][O:20][N:10]=O>>CC(CO)(C(COO)O)[O:21].[O:20][N:10]=O 20,21-21;20,21-20",Room Temperature,Initiation,homolyze
"CC12C=CC(C(C1O)OO2)[O:20][O:21]N=O>>CC12C=CC(C(C1O)OO2)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCC(C(C)O[O:10])O[N+](=O)[O-]>>[H:20][O:10]OC(C)C(CC)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCCC(C(C)O[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(CCC)C(C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCCOO[O:20][N+:21](=O)[O-]>>CCCCCOO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO[N+](=O)[O-])([CH:21]([CH2:20][O:10])OO)O>>CC(CO[N+](=O)[O-])([CH:21]OO)O.[CH2:20]=[O:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC1=CCC(CC1)C(C)([CH2:10])O.[O:20][O]>>CC1=CCC(CC1)C(C)([CH2:10][O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH:6]([O:5][O:4][O:3][N+:2](=[O:1])[O-:9])([Cl:7])[Cl:8]>>[CH:6]([O:5][O:4][O:3])([Cl:7])[Cl:8].[N+:2](=[O:1])[O-:9] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC(OCCO)[O:10][O:11][O:20][N+:21](=O)[O-]>>CC(OCCO)[O:10][O:20][O:11].[N+:21](=O)[O-] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"CCC[CH:10]OCCO.[O:20][O]>>CCC[CH:10](OCCO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(C)[O:20][O:21]N=O>>CCC(C)(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C([O:20][O:21]N=O)(Cl)Cl>>C([O:20])(Cl)Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(=C)C(CCl)O[O:10]>>[H:20][O:10]OC(CCl)C(=C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C2C[CH:10]C(C1C2)(C)O[N+](=O)[O-])C.[O:20][O]>>CC1(C2CC1C([CH:10](C2)[O:20][O])(C)O[N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO)(C(CO)[O:20])O[N+](=O)[O-].[N+:10](=O)[O-]>>CC(CO)(C(CO)[O:20][N+:10](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(C)[CH2:10].[O:20][O]>>CCC(C)(C)[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(CO)O[O:10]>>[H:20][O:10]OC(CC)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:6])[O:3][O:4][H:5].[CH3:7][C:8]([CH2:9][OH:10])([CH:15]=[O:16])[O:11][N+:12](=[O:14])[O-:13]>>[H:1][C:2](=[O:3])[H:6].[H:5][O:4].[CH3:7][C:8]([CH2:9][OH:10])([CH:15]=[O:16])[O:11][N+:12](=[O:14])[O-:13] 4,3-3,2;3,4-4;2-3,2",Room Temperature,Propagation,retroaddition
"[H:20][O:21][CH:22]C1(C(O1)C=CC(=O)C)C.[O:10][O]>>[H:20][O:10][O].CC(=O)C=CC1C(O1)(C)[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"C[C:21]1=[CH:20]C=C(C(=C1C)C)O.[OH:10]>>C[C:21]1[CH:20](C=C(C(=C1C)C)O)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)C(CO[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CC(C)C(CO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:9][O:8][C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[CH:10]([CH2:12][O:13][O:14][H:15])[O:11]>>[H:15][O:14][O:13][CH2:12][CH:10]=[O:11].[CH3:1][C:2]([O:8][H:9])[CH2:3][O:4][N+:5](=[O:7])[O-:6] 2,10-2; 2,10-10,11;11-10,11",Room Temperature,Propagation,retroaddition
"CC(C)(C)OC(=O)C[O:20].[N+:10](=O)[O-]>>CC(C)(C)OC(=O)C[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC12C=C[CH:10]C(C1O)(OO2)C.[O:20][O]>>CC12C=C[CH:10](C(C1O)(OO2)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]C1=C(C=C(C=C1C)C)C.[OH:10]>>[H:20][OH:10].CC1=CC(=C(C(=C1)C)[O:21])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]CC(C)CC.[OH:10]>>[H:20][OH:10].CCC(C)C[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C)OCO[O:20].[N+](=O)([O-])[O:10]>>CC(C)(C)OCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C(C)O[N+](=O)[O-])[O:20][O:21]N=O>>CCCC(C(C)O[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=C[C:10](C2C(C1OO2)O[N+](=O)[O-])O.[O:20][O]>>C1=C[C:10](C2C(C1OO2)O[N+](=O)[O-])(O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
